US05536718
4-[([1,1'-Biphenyl] -2-carbonyl)amino]benzoic Acid
A 3.15 g sample of methyl 4-[([1,1'-biphenyl]-2-carbonyl)amino]benzoate is refluxed for 8 hours in 100 ml of ethyl alcohol and 2.5 ml of 10N sodium hydroxide. The cooled reaction mixture is acidified with hydrochloric acid and the desired product collected and dried to give 2.9 g of the desired product as a solid m.p. 246°-249° C. M+H=318 .

reactant | methyl 4-[([1,1'-biphenyl]-2-carbonyl)amino]benzoate | C=1(C(=CC=CC1)C(=O)NC1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1 | C21H17NO3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 10N, 2.5 ml | [OH-].[Na+]
product | 4-[([1,1'-Biphenyl] -2-carbonyl)amino]benzoic Acid | 2.9 g | C=1(C(=CC=CC1)C(=O)NC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C20H15NO3
